US06380218B1
1-(2-Chloro-phenyl)-ethane-1,2-diol
To a vigrouosly stirred mixture of AD-mix (1.4 g) in water (5 ml) and t-butanol (5 ml) at 0° C. was added 1-Chloro-2-vinyl-benzene (0.140 grams, 1.0 mmole) and stirred at 0° C. for 2 hours. To the mixture sodium sulfite (1.5 g) was added and allowed to warm to room temperature for 1 hour. The mixture was extracted with methylene chloride. The combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated to give a colorless oil (0.190 g). MW 172.61; MS (m/e) 190 (M++18).

reactant | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
reactant | 1-Chloro-2-vinyl-benzene | 1.0 mmole, 0.140 grams | ClC1=C(C=CC=C1)C=C | C8H7Cl
reactant | sodium sulfite | 1.5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 5 ml | O | H2O
product | 1-(2-Chloro-phenyl)-ethane-1,2-diol | 0.190 g | ClC1=C(C=CC=C1)C(CO)O | C8H9ClO2
